Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
PPM placement (___)

 
History of Present Illness:
Mr. ___ is a pleasant ___ year-old psychiatrist with ___ 
notable for non-obstructive CAD, HLD, and 1st degree AV block 
with symptomatic PVCs, who is presenting with syncope and 
subsequent head injury.  

Per the patient, he was in his usual state of health and was 
walking around ___ as he usually does, but decided to 
take a steeper route. He does note he was a little more unsteady 
on his feet than usual. Then about 1.5 miles in, with 
significant uphill exertion, he began to feel "woozy" which he 
describes more as a lightheadedness and maybe some increased 
SOB. He continued on and as he became more lightheaded he bent 
over to try to get to a bench but syncopized. This was witnessed 
by some passersby who came over to him and helped him up. He 
does not remember falling to the ground, but remembers people 
around him helping him up. He does not know how long he was 
unconscious for. He admits to some weakness following the event, 
but denies any confusion after awakening. He denies any chest 
pain/pressure, palpitations, N/V, abdominal discomfort prior to 
his syncopal episode. He further denies any tongue-biting or 
urinary incontinence during/following the episode. He did hit 
his face and scraped the back of his hands during this injury. 
At this point, he was brought to the hospital for further care.  


Of note, the patient reports feeling a similar sensation of 
"wooziness" and lightheadedness in the past after playing 
tennis, however he pushed through it and has never syncopized in 
the past. Per patient and his wife, who is in the room, he has 
been feeling overall pretty well. He has had a worsening cough, 
but dry and non-productive which he attributes to allergies. He 
denies feeling more fatigued or tired than usual. He further
denies any recent illness or travel.

He does have a history of long PR as well as symptomatic PVCs, 
followed by Dr. ___ of At___. He is able at 
baseline to walk up multiple flights of stairs and walk for 
___ minutes on the treadmill. He does have intermittent chest 
pressure, which lasts for seconds at a time, associated with 
exertion. He also has some intermittent palpitations, which at 
most bother him for seconds, multiple times per day, but have 
not been present for months now. Of note, there has been 
discussion in the past about PPM but this has been deferred 
given lack of sx consistent with bradyarrhythmia or PR 
prolongation.  

Additionally, the patient states that he has not had any chest 
pain/pressure, LH, dizziness, new SOB, orthopnea, PND, or 
increasing ___ swelling over the past several months.

In the ED:  - Initial vitals: 97.2, HR 90, BP 146/61, RR 18, 98% 
RA 
- EKG: sinus rhythm with normal ventricular rate, PR 
prolongation, VPCs x2, normal axis; slightly delayed RWP, cannot 
r/o prior anterior MI; borderline LVH non-specific ST-TW changes 
especially in lateral/apical leads consistent with probable 
repolarization changes; compared with prior on ___, similar

- Labs/studies notable for:  
Normal CBC
Normal chemistry panel except for BUN 23 and glucose 175
Trop negative x 1
UA with trace protein otherwise unremarkable

CT Head:
1. No acute intracranial process.
2. Right nasal bone fracture with surrounding soft tissue
swelling. Soft tissue swelling overlies the left maxilla without
evidence of underlying fracture.
- Patient was given:  No meds
- Vitals on transfer: HR 72, BP 163/65, RR 17, 98% RA 
Pt was seen by the EP team, who agreed with admission to 
cardiology. 
 
On the floor, patient endorses the above history. Denies any 
current symptoms of chest pain, SOB, lightheadedness, 
palpitations.

 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Dyslipidemia  
2. CARDIAC HISTORY  
- Nonobstructive CAD with stable exertional angina ( LCX: 40%
ostial in large ramus branch. Small caliber LCX without
significant stenosis. RCA: 50% eccentric stenosis proximally)
- symptomatic VPCs
- 1st degree AV block
3. OTHER PAST MEDICAL HISTORY  
- BPH
- iritis, pseudophakia
- essential tremor

 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death.  

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: 24 HR Data (last updated ___ @ 1548)
    Temp: 98.4 (Tm 98.4), BP: 128/65, HR: 70, RR: 17, O2 sat:
96%, O2 delivery: RA, Wt: 157.8 lb/71.58 kg  
  
GENERAL: Well-developed, well-nourished. NAD. Mood, affect
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI.  
NECK: Supple with JVP not visualized sitting upright. 
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops.
LUNGS: Resp were unlabored, no accessory muscle use. CTAB, No
crackles, wheezes or rhonchi.  
ABDOMEN: Soft, NTND. 
EXTREMITIES: Warm, No c/c/e.  
SKIN: Multiple facial abrasions.
PULSES: Distal pulses palpable and symmetric.
NEURO: CN II-XII intact, no focal deficits, strength ___
throughout. Cerebellar function intact, though does have 
baseline
tremor.

DISCHARGE PHYSICAL EXAM:
========================
VITALS: 24 HR Data (last updated ___ @ 500)
    Temp: 98.5 (Tm 98.5), BP: 125/70 (92-150/43-70), HR: 59
(59-78), RR: 18 (___), O2 sat: 98% (96-99), O2 delivery: Ra  

I/Os: Fluid Balance
___ Total Intake: 990ml PO Amt: 390ml IV Amt Infused: 600ml 

___ Total Output: 200ml Urine Amt: 200ml 

GENERAL: Sitting up comfortably in chair no acute distress   
NECK: Supple with JVP not visualized sitting upright
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops. Left upper
chest wall bandaged, appropriately tender to palpation, no
hematoma
LUNGS: Respirations unlabored, no accessory muscle use. CTAB, No
crackles, wheezes or rhonchi.  
ABDOMEN: Soft, NTND. 
EXTREMITIES: Warm, No c/c/e
SKIN: Multiple facial abrasions, dried blood around nares
PULSES: Good distal pulses

 
Pertinent Results:
ADMISSION LABS:
===============
___ 11:15AM BLOOD WBC-8.1 RBC-4.56* Hgb-13.8 Hct-41.9 
MCV-92 MCH-30.3 MCHC-32.9 RDW-13.8 RDWSD-46.6* Plt ___
___ 11:15AM BLOOD Neuts-65.8 ___ Monos-11.1 Eos-1.8 
Baso-0.6 Im ___ AbsNeut-5.33 AbsLymp-1.65 AbsMono-0.90* 
AbsEos-0.15 AbsBaso-0.05
___ 11:15AM BLOOD ___ PTT-22.1* ___
___ 11:15AM BLOOD Glucose-175* UreaN-23* Creat-1.0 Na-143 
K-4.6 Cl-106 HCO3-22 AnGap-15
___ 11:15AM BLOOD cTropnT-<0.01

PERTINENT LABS/MICRO/IMAGING:
=============================
___ CT head w/o contrast:
1. No acute intracranial process. 
2. Right nasal bone fracture with surrounding soft tissue 
swelling.  Soft 
tissue swelling overlies the left maxilla without evidence of 
underlying 
fracture. 

___ XR right wrist:
Small ossific density projecting in the soft tissue dorsal right 
wrist with associated soft tissue swelling.  This may be due to 
an acute fracture from the recent trauma.  Sequela of an old 
trauma with fracture of the distal radial styloid, widening of 
the scapholunate interval and degenerative changes in the 
radioscaphoid joint. 

___ TTE:
The left atrium is normal in size. The estimated right atrial 
pressure is ___ mmHg. There is normal left
ventricular wall thickness with a normal cavity size. There is 
normal regional and global left ventricular systolic function. 
There is beat-to-beat variability in the left ventricular 
contractility due to the irregular rhythm. The visually 
estimated left ventricular ejection fraction is 60-65%. Left 
ventricular cardiac index is normal (>2.5 L/ min/m2). There is 
no resting left ventricular outflow tract gradient. No 
ventricular septal defect is seen. Diastolic parameters are 
indeterminate. Normal right ventricular cavity size with normal 
free wall motion. The aortic sinus diameter is normal for 
gender. The aortic valve leaflets (?#) are mildly thickened. 
There is no aortic valve stenosis. There is mild [1+] aortic 
regurgitation. The mitral valve leaflets are mildly thickened 
with mild posterior leaflet systolic prolapse. There is an 
eccentric, inferolateral directed jet of moderate [2+] mitral 
regurgitation. The tricuspid valve leaflets appear structurally 
normal. There is trivial tricuspid regurgitation. The estimated 
pulmonary artery systolic pressure is normal. There is a trivial 
pericardial effusion.

IMPRESSION: Preserved biventricular sytolic function in the 
setting of beat-to-beat variability due to
frequent ectopy. Mild posterior mitral leaflet prolapse with 
moderate mitral regurgitation. Normal pulmonary pressure.

___: Cardiac Stress Test
INTERPRETATION: This ___ year old man with recent syncopal 
episode with exertion as well as chest fullness with non-flow 
limiting CAD from cardiac cath in ___ was referred to the lab 
for evaluation. The patient exercised for 6.7 minutes of a 
modified ___ protocol and was stopped for a progressive drop 
in systolic BP with exercise (152/70->122/60). No arm, neck, 
back or chest discomfort was reported by the patient throughout 
the study. There were no significant ST segment changes during 
exercise or in recovery. The rhythm was sinus with AV conduction 
delay, frequent isolated vpbs that were more common with 
exercise, multiple ventricular couplets and one ventricular 
triplet. Abnormal drop in systolic BP with appropriate HR 
response. IMPRESSION: LV dysfunction in the absence of angina or 
ischemic EKG changes. Nuclear report sent separately.

___: Cardiac perfusion:
FINDINGS:  Left ventricular cavity size is enlarged. Resting and 
stress perfusion images reveal uniform tracer uptake throughout 
the left ventricular myocardium.
 
Gated images reveal normal wall motion. The calculated left 
ventricular ejection fraction is 53%.
 
IMPRESSION:  No evidence of reversible perfusion defects.  
Dilated left ventricular cavity size and calculated LVEF of 53%.

DISCHARGE LABS:
===============
___ 05:11AM BLOOD WBC-7.1 RBC-4.50* Hgb-13.5* Hct-41.5 
MCV-92 MCH-30.0 MCHC-32.5 RDW-13.8 RDWSD-47.0* Plt ___
___ 05:11AM BLOOD Plt ___
___ 05:11AM BLOOD Glucose-78 UreaN-17 Creat-0.8 Na-142 
K-4.3 Cl-107 HCO3-25 AnGap-10
___ 05:11AM BLOOD Calcium-8.4 Phos-3.2 Mg-2.___ year-old psychiatrist with ___ notable for non-obstructive 
CAD, HLD, and 1st degree AV block with symptomatic PVCs, who is 
presenting with syncope on exertion. He also experienced facial 
trauma and R wrist injury due to the subsequent fall, now s/p 
PPM placed on ___.

# CORONARIES: LCX: 40% ostial in large ramus branch. Small 
caliber LCX without significant stenosis. RCA: 50% eccentric 
stenosis proximally. 
# PUMP: EF 55%
# RHYTHM: 1st degree AV block

ACUTE ISSUES:
=============
#Syncope: Patient reports an episode of syncope in the setting 
of exertion, with lightheadedness prior to episode and no other 
prodromal symptoms. This was felt to be most likely due to 
prolonged PR with merging of the P wave and T wave.which were 
witnessed on telemetry and stress test.  He also had a nuclear 
exercise stress test on ___ which showed no evidence of 
reversible perfusion defects. With exercise, there were only 
occasional PVCs and only 3 beat NSVT.  However, his BP declined 
with exertion with the only abnormality being a very prolong PR 
interval.   Therefore, he had a PPM placed ___ to normalize 
AV synchrony by force pacing the RV.

#Nasal fracture: 
Patient fell onto his face during syncopal episode, CT head w/o 
contrast in the ED showed non-displaced right nasal bone 
fracture. Seen by trauma surgery and plastic surgery in the ED. 
Plastic surgery placed sutures to the facial lacerations and he 
is to follow up with them as an outpatient on ___ for 
suture removal and possible closed reduction of nasal fracture.

#Right wrist pain:
Patient complaining of pain in the right wrist after his 
syncopal episode. Tender to palpation. XR of right wrist ___ 
showed a "small ossific density projecting in the soft tissue 
dorsal right wrist with associated soft tissue swelling. This 
may be due to an acute fracture from the recent trauma. Sequela 
of an old trauma with fracture of the distal radial styloid, 
widening of the scapholunate interval and degenerative changes 
in the radioscaphoid joint. He was seen by hand surgery, no 
splint recommended, and can follow up with Dr. ___ as 
outpatient if needed.

CHRONIC ISSUES:
===============
#CAD #HLD: Continued home atorvastatin 80mg daily, ASA 81mg 
daily, ranolazine 500mg BID.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. Sildenafil 20 mg PO DAILY:PRN erectile dysfunction 
4. Ranexa (ranolazine) 500 mg oral BID 
5. Loratadine 10 mg PO DAILY:PRN allergies 

 
Discharge Medications:
1.  Bacitracin Ointment 1 Appl TP BID 
RX *bacitracin zinc 500 unit/gram Apply topically to nose wound 
Twice a day Disp #*12 Packet Refills:*0 
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 80 mg PO QPM  
4.  Loratadine 10 mg PO DAILY:PRN allergies  
5.  Ranexa (ranolazine) 500 mg oral BID  
6.  Sildenafil 20 mg PO DAILY:PRN erectile dysfunction  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
-Syncope

SECONDARY:
-Facial trauma
-Right wrist injury
-CAD
-HLD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Dr. ___,

___ was a pleasure taking care of you at ___.

WHY WAS I ADMITTED TO THE HOSPITAL?
You were admitted to the hospital because you had a syncopal 
episode and hit your head.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
-You had a CT scan of your head which showed a non-displaced 
right nasal bone fracture. This will be further addressed when 
you follow up with Plastic and Reconstructive Surgery as an 
outpatient.
-You had some sutures placed by Plastic Surgery, and these will 
be removed during your appointment on ___ when you 
follow up with Plastic and Reconstructive Surgery in their 
clinic.
-You hurt your right wrist when you fell, so an X-ray was done 
which showed a possible fracture. You were evaluated by our hand 
surgeons who did not feel the need to give you a splint and 
recommended follow-up with Dr. ___ as an outpatient if 
needed.
-You had an echocardiogram, which showed normal pumping function 
(ejection fraction 60-65%) and moderate mitral regurgitation, 
which is similar to your prior echo from ___.
-You had a nuclear stress test, which showed no reversible 
perfusion defects, but did show dilated left ventricle with 
calculated ejection fraction of 53%.
-You were seen by the electrophysiologist Dr. ___ 
was placed and functioning properly.

WHAT SHOULD I DO WHEN I LEAVE THE HOSPITAL?
-Continue to take all of your medications as prescribed.
-Please attend all ___ clinic appointments.
-For your facial wounds: Bacitracin twice a day and as needed to 
abrasions, suture lines. Can rinse with water, pat dry, re-apply 
ointment. Peridex mouthwash twice a day x 1 week. Avoid sun 
exposure, use SPF-30 or higher lotion if exposed to sun for the 
next year.
-Your sutures should be removed by plastic surgery on ___. 
Please see the follow up information below for the phone number 
for the plastic surgery clinic.

We wish you all the best,

Your ___ Care Team
 
Followup Instructions:
___